US07700625B2
2-(2,4-Dimethoxy-benzyl)-4-(2-dimethylamino-ethoxy)-2,3-dihydro-1H-isoindole
2-(2,4-Dimethoxy-benzyl)-4-(2-dimethylamino-ethoxy)-isoindole-1,3-dione (201 mg, 0.52 mmol) was treated with a 1M solution of lithium aluminium hydride in THF (5 mL, 5 mmol). After 7.5 hours at r.t. a further portion of lithium aluminium hydride solution (5 mL, 5 mmol) was added and the mixture maintained for further 18 hours. The mixture was then cooled in ice and quenched by the dropwise addition of water (0.4 mL), 2N sodium hydroxide solution (0.8 mL) and water (0.8 mL). Magnesium sulfate was added, followed by ethyl acetate and then the mixture was stirred at r.t. for 1 hour. The solids were removed by filtration, being well washed with ethyl acetate. Concentration of the filtrate gave the title compound (192 mg, 103%) as a brown oil which was carried forward without further purification. 1H NMR (methanol-d4) 7.24 (1H, d), 7.16 (1H, t), 6.82-6.78 (2H, m), 6.55 (1H, d), 6.51 (1H, dd), 4.12 (2H, t), 3.92 (4H, s), 3.86 (2H, s), 3.82 (3H, s), 3.80 (3H, s), 2.76 (2H, t), 2.33 (6H, s). MS: [M+H]+ 357.

reactant | 2-(2,4-Dimethoxy-benzyl)-4-(2-dimethylamino-ethoxy)-isoindole-1,3-dione | 0.52 mmol, 201 mg | COC1=C(CN2C(C3=CC=CC(=C3C2=O)OCCN(C)C)=O)C=CC(=C1)OC | C21H24N2O5
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 5 mmol, 5 mL | C1CCOC1 | C4H8O
reactant | lithium aluminium hydride | 5 mmol, 5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(2,4-Dimethoxy-benzyl)-4-(2-dimethylamino-ethoxy)-2,3-dihydro-1H-isoindole | 192 mg, 103% | COC1=C(CN2CC3=CC=CC(=C3C2)OCCN(C)C)C=CC(=C1)OC | C21H28N2O3
